Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
fentanyl
 
Attending: ___
 
___ Complaint:
Perianal/labial abscess
 
Major Surgical or Invasive Procedure:
EUA, I&D PERIANAL/LABIAL ABSCESS, ___ PLACEMENT

 
History of Present Illness:
___ with history of IBD (pathology consistent with UC but
clinically consistent with Crohn's). She was seen in clinic
yesterday for evaluation of perianal fistulae and it was
recommended that she undergo MRI fistula protocol for further
evaluation. MRI today showed a 3.7 x 2.4 cm thick-walled rim
enhancing perianal abscess abutting the right labia majora, her
pouch appeared to be spared (see below). She has had months of
low grade fevers, pain and fistula drainage. Her pain has
worsened recently and she describes a tender mass on her right
labia in addition to drainage from a fistula in the left 
perianal
area. She was seen by her gastroenterologist Dr. ___, WBC
15.8 and CRP 18.3.

 
Past Medical History:
PMH:
inflammatory bowel disease

PSH:
colectomy and ileoanal pouch ___
laparotomy LOA and loop ileostomy ___
ilesotomy reversal 
C-section ___
multiple EUAs, ___ placements, abscess drainages

 
Social History:
___
Family History:
FAMILY HISTORY:
grandmother and mother with colon cancer
mother and aunt with breast cancer
aunt with lung cancer
cousin with colitis
no known family history of Crohn's 
 
Physical Exam:
Gen: Appears well, AAOx3
CV: RRR
Resp: Normal effort, no distress
Abdomen: Soft, nondistended, nontender, no rebound or guarding
Wound: ___ in place
Ext: Warm, well perfused, no edema
 
Pertinent Results:
___ 08:35AM BLOOD WBC-11.3* RBC-3.54* Hgb-10.4* Hct-33.9* 
MCV-96 MCH-29.4 MCHC-30.7* RDW-12.4 RDWSD-43.8 Plt ___
___ 04:30PM BLOOD Neuts-72.6* ___ Monos-6.8 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-11.46* AbsLymp-3.00 
AbsMono-1.07* AbsEos-0.13 AbsBaso-0.06
___ 08:35AM BLOOD Glucose-85 UreaN-9 Creat-0.6 Na-134* 
K-3.8 Cl-100 HCO3-24 AnGap-10
___ 08:35AM BLOOD Calcium-8.5 Phos-2.8 Mg-1.8
___ 04:30PM BLOOD CRP-18.3*
 
Brief Hospital Course:
___ was admitted to the colorectal surgery service 
and started on IV antibiotics after she was found to have a 
perianal/labial abscess on MRI. She was made NPO and consented 
for an exam under anesthesia. The following morning she was 
taken to the OR for an EUA, I&D, fistulotomy, and ___ 
placement. For detailed description of the procedure please see 
the corresponding operative note. She tolerated the procedure 
well and was recovered in the PACU prior to transfer back up to 
the floor. At this point she had no acute medical or surgical 
issues and was deemed to be fit for discharged. She was 
discharged with the ___ in place on a four day course of 
antibiotics and with plans to follow up as an outpatient in the 
coming weeks. The ___ clinic was emailed to make this 
appointment.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 
2. ALPRAZolam 0.25 mg PO QHS:PRN anxiety 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 4 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  MetroNIDAZOLE 500 mg PO Q8H Duration: 4 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*12 Tablet Refills:*0 
3.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 2 tablet(s) by mouth every six (6) hours Disp 
#*20 Tablet Refills:*0 
4.  ALPRAZolam 0.25 mg PO QHS:PRN anxiety  
5.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perianal abscess and fistula

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
GENERAL INSTRUCTIONS AFTER ANORECTAL SURGERY  
 General: You will have some residual drowsiness from your 
sedative/anesthetic. You will need to have someone drive you 
home. Do not drive or operate machinery for 24 hours and/or if 
you are taking narcotic pain medication the days following 
surgery.  
 Diet: drink plenty of fluids and eat foods high in fiber. Avoid 
foods you know will constipate you or give you GI distress 
(plain white bread, pasta). Resume your normal diet when you are 
moving your bowels normally.  
 Activity: For the first 48 hours avoid strenuous 
activity./heavy lifting. Resume your normal activity when you 
feel comfortable. You may drive when you have been off narcotic 
pain medication for 24 hours.  
 Pain control: It is normal to have pain for a few weeks 
following surgery. You will go home on a combination of over the 
counter pain medication and narcotic pain medication. You may 
take 2 Extra Strength Tylenol (___) every 8 hours 
alternaiting with 3 over the counter Advil (600mg) every 8 
hours. You are taking a non narcotic medication every 4 hours. 
If your pain is not tolerable you may take ___ tramadol pills 
___ hours only as needed.  
 Bowel Regimen: Avoid extremes in bowel movements (diarrhea or 
constipation). You should take a fiber supplement (Metamucil, 
Konsyl, Benefiber, Citrucel): one tablespoon with a glass of 
water once a day. Be sure to drink fluids all day long. If you 
do not have a bowel movement in 48 hours after surgery take 30 
ccs Milk of Magnesia (one capful) every 6 hours until bowel 
movement. If you do not have a bowel movement after 4 doses of 
Milk of Magnesia please call our office.  
 Rectal Care: It is normal to see blood and mucus on pad or with 
bowel movements. It is normal for your wounds to open up. Warm/ 
hot water is soothing, helps relieve pain, reduces swelling, 
increases blood flow and promotes healing. It is important to 
keep the rectal area clean especially after bowel movements. Tub 
baths (warm water soaks) for ___ minutes ___ times a day 
should be done especially after every bowel movement. You may 
need to wear a panty liner or pad on your clothing for spotting. 
It is normal to have some bleeding with bowel movements for a 
few weeks following surgery.  
 Bowel and Urinary Management: It is normal to have pain with 
bowel movements. This will diminish as healing occurs. 
Constipation or diarrhea make the pain much worse and must be 
avoided. Straining should be avoided. Do not sit on the toilet 
for more than 5 minutes at a time.  
 Rectal pain may make it difficult to urinate. If you cannot 
urinate after 6 hours, contact the office. If, after a few days, 
you lose the ability to urinate this may indicate significant 
infection. Contact the office immediately or go the closest 
Emergency Room should this occur.  
 Reasons to call the officer after your surgery:  
 *Bleeding is excessive (bleeding that will not stop with direct 
pressure applied or if you are soaking through the dressing and 
clothing)  
 *If you pass a large amount of blood (one cup or more) or feel 
faint from bleeding  
 *If you are unable to urinate for 6 hours  
 *If you run a fever greater than 101 degrees  
 *If you have nausea and vomiting that persists making it 
difficult for you to keep fluids down  
 *Firm painful lump with green/yellow., smelly drainage  
 Follow-up: You will be schedule for a post operative visit 4 
weeks after surgery. The follow up visit after surgery is 
important if you are unable to attend your appointment please 
call our office at ___ to reschedule. At this visit, 
further plans are made and you may be cleared for full 
activities. 
 
Followup Instructions:
___